US05580872
(8-(3-(1-amino-1-methylethyl)pyrrolidinyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H -quinolizine-3-carboxylic Acid Hydrochloride
A 150 mg sample of 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine3-carboxylic acid ethyl ester, from Example 253i above, was dissolved in 2 mL of anhydrous acetonitrile, reacted with 1-amino-1-methylethyl)pyrrolidine (155 mg, 0.77 mmol, prepared by standard method from the free base described by Hayakawa et al., U.S. Pat. No. 5,098,912, issued Mar. 24, 1992), and carried forward as described in Example 253k-l to give the title product. MS (high resolution) found: 388.2047; calc: 388.2036 (M+H)+ ; 1H NMR (D6 -DMSO) δ: 0.60 (m, 2H), 0.94 (m, 1H), 1.07 (m, 1H), 1.33 (s, 3H), 1.34 (s, 1H), 2.83 (m, 1H), 2.07 (m, 1H), 2.19 (m, 2H), 2.63 (s, 3H), 3.60 (b t, 1H), 3.68 (b t, 1H), 3.81 (m, 1H), 3.93 (m, 1H), 7.90 (s, 1H), 8.11 (b s, 1H), 9.08 (d, 1H), 13.83 (b s, 1H). Anal. Calcd for C21H27N3O3FCl.1.5H2O: C, 55.93; H, 6.71; N, 9.32; Found: C, 56.07; H, 6.71; N, 8.95.

reactant | 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=C2C(=C(C(=CN2C1=O)F)Cl)C)C1CC1 | C16H15ClFNO3
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 8-(3-(1-amino-1-methylethyl)pyrrolidinyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H -quinolizine-3-carboxylic Acid Hydrochloride | Cl.NC(C)(C)C1CN(CC1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F | InChI=1S/C21H26FN3O3.ClH/c1-11-17-14(12-4-5-12)8-15(20(27)28)19(26)25(17)10-16(22)18(11)24-7-6-13(9-24)21(2,3)23;/h8,10,12-13H,4-7,9,23H2,1-3H3,(H,27,28);1H
